US04463172
Diphenylmethyl 7-amino-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate
A 3.7 ml portion of pyridine was added to a solution of diphenylmethyl 7-(2-thienylacetamido)-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate in 100 ml of CH2Cl2, followed by adding 2.4 g of PCl5 at -12° C., further followed by stirring at the same temperature for 45 minutes. MeOH was added in once, and the mixture was further stirred at -10° C. for 30 minutes and at room temperature for 1 hour. 100 ml of 0.5M K2HPO4 solution was added to the reaction solution, followed by adding further 25% H3PO4 to adjust to pH 1.5. After stirring for 45 minutes, the CH2Cl2 layer was separated out, then washed with saturated aqueous NaCl solution, and dried over MgSO4 to distill off the CH2Cl2 under reduced pressure. Et2O was added to the residue, thus yielding 1.73 g (72%) of crystals of 7-amino-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate.

reactant | diphenylmethyl 7-(2-thienylacetamido)-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N6O4S3
reactant | PCl5 | 2.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | K2HPO4 | 0.5M, 100 ml | OP(=O)([O-])[O-].[K+].[K+]
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Diphenylmethyl 7-amino-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate | 1.73 g, 72% | NC1[C@@H]2N(C(=C([C@H](S2)C)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H24N6O3S2
